US05380750
N-[2-(6-METHOXYBENZIMIDAZOL-1-YL)ETHYL]TRIFLUOROACETAMIDE
Following the procedure of Example 13 but replacing 5-methoxytryptamine with 1-β-aminoethyl-6-methoxybenzimidazole, N-[2-(6-methoxybenzimidazol-1-yl))ethyl]-trifluoroacetamide is obtained.

reactant | 1-β-aminoethyl-6-methoxybenzimidazole | NCCN1C=NC2=C1C=C(C=C2)OC | C10H13N3O
reactant | trifluoroacetamide | FC(C(=O)N)(F)F | C2H2F3NO
product | N-[2-(6-METHOXYBENZIMIDAZOL-1-YL)ETHYL]TRIFLUOROACETAMIDE | COC=1C=CC2=C(N(C=N2)CCNC(C(F)(F)F)=O)C1 | C12H12F3N3O2
